US04503220
By following the procedure of Example 3, but replacing the bis-dimethylamino-t-butoxymethane by trisdimethylaminomethane (1.75 cc) and starting from 7-dimethoxyphosphorylamino-3-methyl-2-(4-nitrobenzyloxycarbonyl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene (2.3 g), 7-dimethoxyphosphorylamino-3-(2-dimethylaminovinyl)-2-(4-nitrobenzyloxycarbonyl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene (E isomer) (1.5 g) is obtained in the form of an orange crystalline powder, m.p.=236°-237° C. An analytically pure sample is obtained by recrystallisation from acetonitrile: yellow crystals, m.p.=252°-253° C.

reactant | trisdimethylaminomethane | 1.75 cc | CN(C)C(N(C)C)N(C)C | C7H19N3
reactant | 7-dimethoxyphosphorylamino-3-methyl-2-(4-nitrobenzyloxycarbonyl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 2.3 g | COP(=O)(OC)NC1C2SCC(=C(N2C1=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C | C17H20N3O8PS
product | 7-dimethoxyphosphorylamino-3-(2-dimethylaminovinyl)-2-(4-nitrobenzyloxycarbonyl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 1.5 g | COP(=O)(OC)NC1C2SCC(=C(N2C1=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C=CN(C)C | C20H25N4O8PS
